US08017602B2
A solution of diisobutylaluminium hydride in dichloromethane (1M, 35 mL) was added dropwise to a stirred solution of methyl 2-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenyl)acetate [Example 13, Step ii)] (3.36 g) in dichloromethane (15 mL) keeping temp of reaction mixture at gentle reflux. The mixture was stirred for 15 min. and carefully quenched by dropwise addition of MeOH (3 mL). The mixture was poured onto 2M HCl (100 mL) and extracted with a mixture DCM/MeOH (9:1, 5×50 mL). The organic was dried over magnesium sulfate, filtered and evaporated to afford 2-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenyl)ethanol (2.2 g) that was used in the next step without purification. 1H NMR (300 MHz, CDCl3) δ 7.86 (s, 1H), 7.78 (s, 1H), 7.39 (d, J=7.3 Hz, 1H), 7.09-7.02 (m, 2H), 3.97 (s, 3H), 3.88 (t, J=6.5 Hz, 2H), 2.87 (t, J=6.4 Hz, 2H)

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 2-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenyl)acetate | FC1=C(C=C(C=C1)CC(=O)OC)C=1C=NN(C1)C | C13H13FN2O2
solvent | dichloromethane | 1M, 35 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenyl)ethanol | 2.2 g | FC1=C(C=C(C=C1)CCO)C=1C=NN(C1)C | C12H13FN2O
